US06486333B1
Synthesis of 3-methyl-4-isopropylphenyl chloroacetate
By the same method of Synthesis Example 6, chloroacetyl chloride was allowed to react with 3-methyl-4-isopropylphenol, the reaction mixture was washed with water and then the solvent was evaporated under a reduced pressure to obtain the title compound as a transparent oil. The title compound was used in the subsequent reaction without distillation.

reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | 3-methyl-4-isopropylphenol | CC=1C=C(C=CC1C(C)C)O | C10H14O
product | 3-methyl-4-isopropylphenyl chloroacetate | ClCC(=O)OC1=CC(=C(C=C1)C(C)C)C | C12H15ClO2
